US09315521B2
6-methyl-2-sulfanylpyrimidin-4-ol (300 mg, 2.1 mmol) was dissolved in absolute ethanol (10 mL), then triethylamine (650 μL, 4.6 mmol) and 4-(bromomethyl)pyridin-1-ium bromide (587 mg, 2.3 mmol) were added. The mixture was stirred overnight at room temperature, and the solvent was evaporated. The residue was dissolved in DCM and purified on silica gel using 10% DCM/MeOH to afford, after washing with water, 6-methyl-2-[(pyridin-4-ylmethyl)sulfanyl]pyrimidin-4-ol as white solid (128 mg, 26% yield); 1H NMR (400 MHz, MeOd4): δ 2.24 (s, 3H), 4.47 (s, 2H), 6.00 (s, 1H), 7.52 (dd, J=4.5 Hz, J=1.6 Hz, 2H), 8.45 (dd, J=4.5 Hz, J=1.6 Hz, 2H).

reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | 2.1 mmol, 300 mg | CC1=CC(=NC(=N1)S)O | C5H6N2OS
reactant | triethylamine | 4.6 mmol, 650 μL | C(C)N(CC)CC | C6H15N
reactant | 4-(bromomethyl)pyridin-1-ium bromide | 2.3 mmol, 587 mg | [Br-].BrCC1=CC=[NH+]C=C1
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | 6-methyl-2-[(pyridin-4-ylmethyl)sulfanyl]pyrimidin-4-ol | 128 mg, 26% yield | CC1=CC(=NC(=N1)SCC1=CC=NC=C1)O | C11H11N3OS
